US06130241
3-(3-Methylbut-1 -y)-3-azabicyclo[3.1 .0]hexane-2,4-dione
Sodium hydride (0.11 g) was added to a solution of 3-azabicyclo[3.1.0]hexane-2,4-dione (0.3 g) in dry tetrahydrofuran (10 ml) under a nitrogen atmosphere at room temperature. The suspension was stirred for 5 minutes and 1-iodo-3-methylbutane (0.53 g) was then added in one portion to the reaction mixture. After stirring for two hours at room temperature, dimethylformamide (5 ml) was added and the reaction mixture was stirred for a further 16 hours at room temperature. The reaction mixture was diluted with dichloromethane and then partitioned with water (20 ml). The aqueous phase was extracted with dichloromethane (20 ml) and the combined organic extracts were washed with water (2×20 ml), dried (MgSO4) and evaporated in vacuo. The residue was purified by chromatography on silica gel (50 g) using 25% ethyl acetate/hexane as eluant to give the title compound as a colourless oil.

reactant | Sodium hydride | 0.11 g | [H-].[Na+]
reactant | 3-azabicyclo[3.1.0]hexane-2,4-dione | 0.3 g | C12C(NC(C2C1)=O)=O | C5H5NO2
reactant | 1-iodo-3-methylbutane | 0.53 g | ICCC(C)C | C5H11I
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(3-Methylbut-1 -y)-3-azabicyclo[3.1 .0]hexane-2,4-dione | CC(CCN1C(C2CC2C1=O)=O)C | C10H15NO2
